US06127541
2-(4-Methyl-1-homopiperazinyl)benzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 2-fluorobenzonitrile and 4-methylhomopiperazine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 4-methylhomopiperazine | CN1CCNCCC1 | C6H14N2
product | 2-(4-Methyl-1-homopiperazinyl)benzonitrile | CN1CCN(CCC1)C1=C(C#N)C=CC=C1 | C13H17N3
